US08044041B2
A mixture of 1,4-dioxo-1,2,3,4-tetrahydro-phthalazine-6-carboxylic acid (2.5 g, 9.14 mmol), in thionyl chloride (25 mL) was refluxed for 3 hours. Phosphorous oxychloride (25 mL) was added and the reaction refluxed for an additional 15 hours. The solution was concentrated under vacuum and treated 3 times with toluene in order to remove the excess thionyl chloride. The crude residue was dissolved in DMF (15 mL) and added dropwise to a 0° C. solution of 3-(trifluoromethyl)aniline (1.71 mL, 13.71 mmol), DMF (15 mL) and NEt3 (3.82 mL, 27.42 mmol). The reaction was then heated to 85° C. for 1 h. The reaction was cooled to room temperature, diluted with water and extracted with EtOAc. The combined organic layers were washed with water (×3), sat.aq. NH4Cl, brine and dried (Na2SO4). Column chromatography (Hex/EtOAc) afforded 1-chloro-3-methyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (17 mg) as a white solid, 1H NMR (400 MHz, d6-DMSO) δ: 3.73 (s, 3H), 7.51 (d, 1H), 7.64 (t, 1H), 8.10 (d, 1H), 8.17 (d, 1H), 8.27 (s, 1H), 8.54 (dd, 1H), 8.93 (d, 1H), 11.03 (s, 1H) ppm; m/z (M+1) 382.09; and 4-chloro-2-methyl-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (156 mg) as a white solid. 1H NMR (400 MHz, d6-DMSO) δ: 3.72 (s, 3H), 7.52 (d, 1H), 7.65 (t, 1H), 8.08 (d, 1H), 8.25 (s, 1H), 8.46 (s, 2H), 8.53 (m, 1H), 11.02 (s, 1H) ppm; m/z (M+1) 382.09.

reactant | 1,4-dioxo-1,2,3,4-tetrahydro-phthalazine-6-carboxylic acid | 9.14 mmol, 2.5 g | O=C1NNC(C2=CC(=CC=C12)C(=O)O)=O | C9H6N2O4
reactant | Phosphorous oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(trifluoromethyl)aniline | 13.71 mmol, 1.71 mL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | NEt3 | 27.42 mmol, 3.82 mL | CCN(CC)CC | C6H15N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 1-chloro-3-methyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 17 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(N(N=C(C2=CC1)Cl)C)=O)(F)F | C17H11ClF3N3O2
